US07087602B2
The starting material 4-chloro-6-methoxy-7-(3-morpholinopropoxy)cinnoline hydrochloride was obtained by adding 1-chloro-3-morpholinopropane (190 mg, 0.95 mmol), (prepared as described in U.S. Pat. No. 4,004,007), to a suspension of 4-chloro-7-hydroxy-6-methoxycinnoline (0.2 g, 0.95 mmol), (prepared as described for the starting material in Example 10), in DMF (5 ml) containing potassium carbonate (327 mg, 2.3 mmol) and potassium iodide (15 mg, 0.095 mmol). After heating at 80° C. for 2 hours, potassium carbonate (65 mg, 0.47 mmol) and more 1-chloro-3-morpholinopropane (95 mg, 0.47 mmol) were added. After stirring for 4 hours at 80° C. the reaction mixture was cooled and 7M hydrogen chloride in isopropanol (407 μl) was added. The solution was poured onto a Diaion (trade mark of Mitsubishi) HP20SS column, using water/methanol (100/0 to 0/100 as a gradient) to give 4-chloro-6-methoxy-7-(3-morpholinopropoxy)cinnoline as an hydrochloride salt (175 mg, 44%).

reactant | 1-chloro-3-morpholinopropane | 0.95 mmol, 190 mg | ClCCCN1CCOCC1 | C7H14ClNO
reactant | 4-chloro-7-hydroxy-6-methoxycinnoline | 0.95 mmol, 0.2 g | ClC1=CN=NC2=CC(=C(C=C12)OC)O | C9H7ClN2O2
reactant | potassium carbonate | 2.3 mmol, 327 mg | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.095 mmol, 15 mg | [I-].[K+]
reactant | potassium carbonate | 0.47 mmol, 65 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-chloro-3-morpholinopropane | 0.47 mmol, 95 mg | ClCCCN1CCOCC1 | C7H14ClNO
reactant | hydrogen chloride | 7M | Cl | ClH
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | isopropanol | 407 μl | C(C)(C)O | C3H8O
solvent | water methanol | O.CO
product | 4-chloro-6-methoxy-7-(3-morpholinopropoxy)cinnoline | ClC1=CN=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1 | C16H20ClN3O3
